*****************************************************************
* NXP PSMN9R8-30MLC
*
* Polarity N-Channel
* Ratings 30V/9.800000E-003OHMS/50.6183676084465A
*
* Date Created Wed Jun 13 05:15:40 2012
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN9R8-30MLC DRAIN GATE SOURCE

LD DRAIN 5 2e-11
RLD2 DRAIN 5 0.0502654824574367
RLD1 5 4 5e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 4.4e-10
RLS2 SOURCE 8 1.10584061406361
RLS1 8 7 0.00045

RDS 7 4 30000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00665271509317439 TC=0.00501559550943598,5.38716503358881E-06
RBD 9 4 0.00327293796309581 TC=0.00501559550943598,5.38716503358881E-06
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 5.84336349930546e-10
RG 1 2 1.80523376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -1	384
+ -0.5	315
+ -0.2	272
+ -0.1	261
+ 0	250.565
+ 0.1	230.08
+ 0.2	215.13
+ 0.5	171.12
+ 1	129.81
+ 2	98.69
+ 3	84.96
+ 4	76.84
+ 5	71.44
+ 6	67.58
+ 8	62.82
+ 10	58.1
+ 12	55.73
+ 15	53.05
+ 20	49.58



.MODEL MINT NMOS(Vto=2.01159674998099 Kp=0.953701e+002 Nfs=400000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=33 Ibv=2.500000E-004 Rs=1E-6 Is=3.89423498116065e-13
+ N=1 M=0.62 VJ=0.83 Fc=0.5 Cjo=7.2268e-10 Tt=1.293864e-08)

.ENDS

